US07476742B2
Preparation of methyl 2-(6-methoxy-1H-inden-3-yl)propanoate
In an oven dried 3-neck 5.0 L flask fitted with a condenser, a thermometer, and an addition funnel was charged under argon, 5-methoxy-1-indanone (86.73 g, 0.52 mol) and THF (2.13 L). The mixture was stirred at rt and became an orange-colored solution. To this were added zinc granules (59.96 g, 0.92 mol, 30 mesh). The mixture was heated to ˜50° C. with simultaneous addition of a solution of methyl-2-bromopropionate (88.80 g, 0.79 mol) in THF (393 mL). The reaction mixture was heated for a period of 20 h, after which heating was stopped and the reaction mixture cooled to rt followed by cooling on an ice bath. The mixture was then slowly quenched with HCl (3.3 L, 1 N aqueous solution) maintaining the internal temperature at ˜18° C. The aqueous layer was extracted with EtOAc (3×500 mL). The organic layer was then washed with water (4×500 mL, a pH of ˜4.5 achieved), brine (500 mL), and dried over Na2SO4. The solvent was removed under vacuum to give a dark brown colored oil. The crude product was purified by silica gel chromatography (1-8% EtOAc/hexane gradient) to give 54.09 g (52%) of the title compound as a dark brown oil. 1H NMR (400 MHz, DMSO-d6): δ 7.25 (1H, d), 7.09 (1H, s), 6.87 (1H, dd), 6.24 (1H, s), 3.82 (1H, q), 3.75 (3H, s), 3.58 (3H, s), 3.30 (2H, s), 1.21 (3H, d); LC-MS: RT=3.00 min, M+H+: 233.0.

reactant | 5-methoxy-1-indanone | 0.52 mol, 86.73 g | COC=1C=C2CCC(C2=CC1)=O | C10H10O2
reactant | methyl-2-bromopropionate | 0.79 mol, 88.80 g | COC(C(C)Br)=O | C4H7BrO2
solvent | THF | 393 mL | C1CCOC1 | C4H8O
catalyst | zinc | [Zn] | Zn
solvent | THF | 2.13 L | C1CCOC1 | C4H8O
product | methyl 2-(6-methoxy-1H-inden-3-yl)propanoate | 54.09 g, 52% | COC1=CC=C2C(=CCC2=C1)C(C(=O)OC)C | C14H16O3
